US07700599B2
1,1-Dimethylethyl (2S)-4-({4-[({6-[(3-cyanophenyl)oxy]-3-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D57)
The title compound was prepared from 1,1-dimethylethyl (2S)-4-({4-[[(6-chloro-3-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D54) and 3-cyanophenol in a similar manner to that described for D55 in Description 55 although the reaction temp./time was 130° C. for 24 h and purification was carried out by column chromatography. This gave the title compound as a colourless oil (0.184 g). MS (ES): MH+ 542.3.

reactant | 1,1-dimethylethyl (2S)-4-({4-[[(6-chloro-3-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | ClC1=CC=C(C=N1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C24H31ClN4O3
reactant | 3-cyanophenol | C(#N)C=1C=C(C=CC1)O | C7H5NO
product | 1,1-Dimethylethyl (2S)-4-({4-[({6-[(3-cyanophenyl)oxy]-3-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.184 g | C(#N)C=1C=C(C=CC1)OC1=CC=C(C=N1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C31H35N5O4
